US05668145
E. Racemic 2-(1,2,3,4-Tetrahydro-isoquinolin-3-yl)-ethanol
(+)-2-(2-Benzyl-1,2,3,4-tetrahydro-isoquinolin-3-yl)-ethanol (610 mg, 2.3 mmol) was hydrogenated at 40 p.s.i.g. on a Parr Apparatus (305 mg of 10% palladium-on-carbon catalyst; methanol/concentrated hydrochloric acid solvent (15 ml and 0.25 ml, respectively) for 5 hours. The catalyst was filtered, and the filtrate was concentrated in vacuo to an oil, which was dissolved in dilute aqueous (pH 9) sodium carbonate/methylene chloride (50 ml of each). The aqueous phase was separated and extracted with two 10 ml portions of methylene chloride. The combined organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo to afford the title compound as a viscous colorless oil (quantitative yield).

reactant | (+)-2-(2-Benzyl-1,2,3,4-tetrahydro-isoquinolin-3-yl)-ethanol | 2.3 mmol, 610 mg | C(C1=CC=CC=C1)N1CC2=CC=CC=C2CC1CCO | C18H21NO
catalyst | palladium-on-carbon | 305 mg | [Pd] | Pd
solvent | methanol | CO | CH4O
product | Racemic 2-(1,2,3,4-Tetrahydro-isoquinolin-3-yl)-ethanol | quantitative yield | C1NC(CC2=CC=CC=C12)CCO | C11H15NO
